US07906654B2
(4-Bromo-2-methylphenyl)methanol
4-Bromo-2-methylbenzoic acid (11.1 g, 51.6 mmol) is dissolved in anhydrous THF (11.2 mL). The solution is cooled to 0-5° C. and a 1 M solution of BH3. THF (103 mL) is added to the mixture. The solution is left stirring 3 h at room temperature. Cold water is then added (20 mL) and the reaction mixture is washed with a saturated solution of NaHCO3 (120 mL). The aqueous phase is extracted with diethyl ether (3×300 mL) and the combined organic phases washed with brine (200 mL), dried with MgSO4 and concentrated in vacuo. The resulting oil is purified by flash-chromatography, eluting with hexane/EtOAc from 95:5 to 70:30, to provide the expected product (4-Bromo-2-methylphenyl)methanol (10.4 g, 100%) as a clear oil.

reactant | 4-Bromo-2-methylbenzoic acid | 51.6 mmol, 11.1 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | water | O | H2O
solvent | THF | 11.2 mL | C1CCOC1 | C4H8O
solvent | THF | 103 mL | C1CCOC1 | C4H8O
product | (4-Bromo-2-methylphenyl)methanol | 10.4 g, 100% | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
